US09102684B2
5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-2-methyl-2,3-dihydro-isoindol-1-one
To a well stirred suspension of 5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-3-hydroxy-2-methyl-2,3-dihydro-isoindol-1-one (106 mg; 0.29 mmol) in ethylene dichloride (1 ml) at 0° C. is added Triethylsilane (84 mg; 0.72 mmol) and Boron Trifluorid etherate (54 μl; 0.43 mmol). It is let to come to ambient temperature and stirred for 1 hour. The reaction mixture is then purified by using reversed phase chromatography under basic conditions.

reactant | 5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-3-hydroxy-2-methyl-2,3-dihydro-isoindol-1-one | 0.29 mmol, 106 mg | BrC=1C=C2C(N(C(C2=CC1)=O)C)(O)C1=CC(=CC(=C1)OC)F | C16H13BrFNO3
reactant | Triethylsilane | 0.72 mmol, 84 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | Boron Trifluorid etherate | 0.43 mmol, 54 μl | B(F)(F)F.CCOCC
solvent | ethylene dichloride | 1 ml | C(CCl)Cl | C2H4Cl2
product | 5-Bromo-3-(3-fluoro-5-methoxy-phenyl)-2-methyl-2,3-dihydro-isoindol-1-one | BrC=1C=C2C(N(C(C2=CC1)=O)C)C1=CC(=CC(=C1)OC)F | C16H13BrFNO2
